US09216173B2
To a flask were added tert-butyl {(1S,2R)-2-[(5-bromo-6-cyanopyridin-3-yl)amino]cyclohexyl}carbamate (21.5 g, 54.4 mmol), 2-amino-4,6-dimethylpyridine (9.97 g, 81.7 mmol), Pd2(dba)3 (2.49 g, 2.72 mmol), Xantphos (3.15 g, 5.44 mmol), cesium carbonate (35.4 g, 109 mmol) and dioxane (215 mL). The mixture was degassed by bubbling nitrogen through the reaction mixture. After 15 minutes, the nitrogen purge was ceased and the reaction mixture was heated to 80° C. After 5 hours, the reaction mixture was cooled to ambient temperature, and filtered through CELITE (washing with ethyl acetate). To the filtrate was added silica gel, and the solvent was removed under reduced pressure. The residue was purified via silica gel chromatography to afford tert-butyl [(1S,2R)-2-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate. MS ESI calc'd. for C24H33N6O2 [M+H]+ 437. found 437. 1H NMR (600 MHz, DMSO-d6) δ 8.61 (s, 1H), 7.72 (d, J=2.4 Hz, 1H), 7.52 (s, 1H), 6.60 (s, 1H), 6.54 (d, J=8.4 Hz, 1H), 6.53 (s, 1H), 6.33 (d, J=7.2 Hz, 1H), 3.71 (s, 1H), 3.55 (s, 1H), 2.56 (s, 3H), 2.16 (s, 3H), 1.74-1.66 (m, 1H), 1.64-1.54 (m, 2H), 1.51-1.42 (m, 3), 1.32-1.23 (m, 10), 1.12-1.08 (m, 1H).

reactant | tert-butyl {(1S,2R)-2-[(5-bromo-6-cyanopyridin-3-yl)amino]cyclohexyl}carbamate | 54.4 mmol, 21.5 g | BrC=1C=C(C=NC1C#N)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O | C17H23BrN4O2
reactant | 2-amino-4,6-dimethylpyridine | 81.7 mmol, 9.97 g | NC1=NC(=CC(=C1)C)C | C7H10N2
reactant | Xantphos | 5.44 mmol, 3.15 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 109 mmol, 35.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
catalyst | Pd2(dba)3 | 2.72 mmol, 2.49 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | 215 mL | O1CCOCC1 | C4H8O2
product | tert-butyl [(1S,2R)-2-({6-cyano-5-[(4,6-dimethylpyridin-2-yl)amino]pyridin-3-yl}amino)cyclohexyl]carbamate | C(#N)C1=C(C=C(C=N1)N[C@H]1[C@H](CCCC1)NC(OC(C)(C)C)=O)NC1=NC(=CC(=C1)C)C | C24H32N6O2
